US05741896
Ethyl-6-[5,6,7,8-tetrahydro-5,5-dimethyl-8-(t-butyldimethylsilyloxy)-naphth-7-yl]naphth-2-oate (Compound B3)
To a degassed solution of 722 mg (2.6 mmol) of ethyl 6-bromonaphthalenecarboxylate in 6.0 mL of toluene, was added sequentially 90 mg (0.08 mmol) of tetrakis-triphenylphosphine palladium (O), 5.0 mL (10.0 mmol) of 2M sodium carbonate, and a solution of 1.018 g (3.1 mmol) of (5,6,7,8-tetrahydro-5,5-dimethyl-8-(t-butyldimethylsilyloxy)naphth-2-yl)boronic acid (Compound B14) in 3.0 mL of MeOH. The reaction was heated at 90° C. for 15 h. The reaction was diluted with 2N Na2 CO3, and extracted with CH2Cl2 (2×), the organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give an oil. The crude product was purified flash chromatography (silica, 5% ethyl acetate in hexane) to afford the title compound as a white solid.

reactant | ethyl 6-bromonaphthalenecarboxylate | 2.6 mmol, 722 mg | BrC=1C=C2C=CC=C(C2=CC1)C(=O)OCC | C13H11BrO2
reactant | sodium carbonate | 10.0 mmol, 2M, 5.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | (5,6,7,8-tetrahydro-5,5-dimethyl-8-(t-butyldimethylsilyloxy)naphth-2-yl)boronic acid | 3.1 mmol, 1.018 g | CC1(C=2C=CC(=CC2C(CC1)O[Si](C)(C)C(C)(C)C)B(O)O)C | C18H31BO3Si
reactant | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 3.0 mL | CO | CH4O
product | Ethyl-6-[5,6,7,8-tetrahydro-5,5-dimethyl-8-(t-butyldimethylsilyloxy)-naphth-7-yl]naphth-2-oate | C(C)OC(=O)C1=CC2=CC=C(C=C2C=C1)C1CC(C=2C=CC=CC2C1O[Si](C)(C)C(C)(C)C)(C)C | C31H40O3Si
